US08283482B2
Preparation of 15-bromopentadecanoic acid
15-Pentadecanolide of 14.3 g (59.5 mmol), and 32% hydrogen bromide/acetic acid solution of 24.8 g (98.0 mmol, 1.6 eq) were added to 100 mL of autoclave protected with Teflon (registered trade name). After purging with nitrogen and sealing, the autoclave was placed in an oil bath at 60° C. and stirring was carried out for 16 hours. For the stirring, a magnetic stirrer was used. After cooling, 14 mL of water was added, and by using 200 mL of hot hexane the mixture was transferred to a separatory funnel. After washing with ion exchange water, it was dried over the magnesium sulfate. After filtration, 17.4 g of the target compound was obtained by crystallization using n-hexane (yield 91%).

reactant | 15-Pentadecanolide | C1(CCCCCCCCCCCCCCO1)=O | C15H28O2
reactant | hydrogen bromide acetic acid | Br.C(C)(=O)O
product | 15-bromopentadecanoic acid | 17.4 g | BrCCCCCCCCCCCCCCC(=O)O | C15H29BrO2
